US04547576
3-(3-phenylpiperidinomethyl)-7-hydroxy-1,2,3,4-tetrahydrocarbazole
3-(3-m-methoxyphenylpiperidinomethyl)-6-methoxy-1,2,3,4-tetrahydrocarbazole, Rf 0.7 (CH2Cl2 /methanol 9:1)

reactant | 3-(3-m-methoxyphenylpiperidinomethyl)-6-methoxy-1,2,3,4-tetrahydrocarbazole | COC=1C=C(C=CC1)C1CN(CCC1)CC1CCC=2NC3=CC=C(C=C3C2C1)OC | C26H32N2O2
reactant | CH2Cl2 methanol | C(Cl)Cl.CO
product | 3-(3-phenylpiperidinomethyl)-7-hydroxy-1,2,3,4-tetrahydrocarbazole | C1(=CC=CC=C1)C1CN(CCC1)CC1CCC=2NC3=CC(=CC=C3C2C1)O | C24H28N2O
